US04933367
A mixture of 3.25 g (9 mmol) of ethyl 7-(4-chlorophenyl)-2-(4-methylphenoxy)heptanoate, 15 ml of 1N caustic potash solution and 45 ml of methanol is heated for 3 h, with stirring, at 40° C. Then the methanol is evaporated in vacuo, the aqueous solution is washed with ether and acidified with dilute hydrochloric acid. The precipitated oil is taken up in ether and the ether solution is dried and concentrated by evaporation. The residue is ground with ligroin. 2.7 g (86% of theory) is obtained of 7-(4-chlorophenyl)-2-(4-methylphenoxy)heptanoic acid, M.P. 74°-76° C.

reactant | ethyl 7-(4-chlorophenyl)-2-(4-methylphenoxy)heptanoate | 9 mmol, 3.25 g | ClC1=CC=C(C=C1)CCCCCC(C(=O)OCC)OC1=CC=C(C=C1)C | C22H27ClO3
reactant | caustic potash | 1N, 15 ml | [OH-].[K+]
solvent | methanol | 45 ml | CO | CH4O
product | 7-(4-chlorophenyl)-2-(4-methylphenoxy)heptanoic acid | ClC1=CC=C(C=C1)CCCCCC(C(=O)O)OC1=CC=C(C=C1)C | C20H23ClO3
